US08242143B2
1-{5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridin-2-yl}-1H-pyrrolo[2,3-b]pyridine
To a stirred solution of 1H-pyrrolo[2,3-b]pyridine (2.0 mmol, 236 mg) in DMF (20 mL) at 60° C. was added sodium hydride (2.5 mmol, 100 mg of 60% wt dispersion in mineral oil). After 30 min, 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine (0.5 mmol, 117 mg) was added and the reaction was warmed to 75° C. and stirred overnight under nitrogen. The reaction was then partitioned with EtOAc:hexanes (1:1, 100 mL) and water (50 mL). The organic layer was washed with 5% NaCl (4×50 mL), then dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was chromatographed on SiO2, eluting with 3% MeOH in DCM, to afford the title compound as a white solid that was dissolved in ether and precipitated as the hydrochloride salt with 1N HCl in ether. 1H-NMR (CD3OD, 500 MHz) δ 8.88 (m, 2H), 8.65 (d, 1H), 8.54 (d, 1H), 8.30 (dd, 1H), 8.05 (d, 1H), 7.94 (s, 1H), 7.83 (dd, 1H), 7.24 (d, 1H), 2.82 (s, 3H). MS (ESI) 317.4 (M+H+).

reactant | 1H-pyrrolo[2,3-b]pyridine | 2.0 mmol, 236 mg | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine | 0.5 mmol, 117 mg | ClC1=NC=C(C=C1)C#CC=1N=C(SC1)C | C11H7ClN2S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-{5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridin-2-yl}-1H-pyrrolo[2,3-b]pyridine | CC=1SC=C(N1)C#CC=1C=CC(=NC1)N1C=CC=2C1=NC=CC2 | C18H12N4S
